US05224980
Preparation of bis(2-methylaminocarbonylcyclopent-1-enyl) disulphide.
2-methyl-4,5-trimethylene-4-isothiazolin-3-one (1 part) was stirred in distilled water (25 parts) at 20°-25° C. Sodium hydrosulphite (2×0.2 parts) was added in two portions over 30 minutes. Analysis by HPLC indicated the formation of two products.

reactant | 2-methyl-4,5-trimethylene-4-isothiazolin-3-one | CN1C(=O)C2=C(S1)CCC2 | C7H9NOS
reactant | Sodium hydrosulphite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | bis(2-methylaminocarbonylcyclopent-1-enyl) disulphide | CNC(=O)C1=C(CCC1)SSC1=C(CCC1)C(=O)NC | C14H20N2O2S2
